US07700638B2
7-(3-Aminophenyl)-5-cyano-1-Phenylbenzimidazole
A mixture of 5-cyano-7-iodo-1-phenylbenzimidazole (1.9 g, 5.5 mmol), 3-aminophenylboronic acid hemisulphate (1.53 g, 8.3 mmol), 1,3-propanediol (2 ml, 27.5 mmol), potassium carbonate (3.8 g, 27.5 mmol) and bis(triphenylphosphin)palladium dichloride (100 mg, 0.14 mmol) in a mixture of dimethoxyethane (20 ml) and water (10 ml) was stirred at reflux for 1 hour. The resultant mixture was poured into water and the crude product was filtered off, washed with water and air-dried. Trituration in dichloromethane offered the desired product as a greyish solid (1.5 g, 88%) m/z, 311.1 (M+H)+.

reactant | 5-cyano-7-iodo-1-phenylbenzimidazole | 5.5 mmol, 1.9 g | C(#N)C1=CC2=C(N(C=N2)C2=CC=CC=C2)C(=C1)I | C14H8IN3
reactant | 3-aminophenylboronic acid hemisulphate | 8.3 mmol, 1.53 g | S(=O)(=O)(O)O.NC=1C=C(C=CC1)B(O)O.NC=1C=C(C=CC1)B(O)O
reactant | 1,3-propanediol | 27.5 mmol, 2 ml | C(CCO)O | C3H8O2
reactant | potassium carbonate | 27.5 mmol, 3.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
solvent | water | 10 ml | O | H2O
catalyst | bis(triphenylphosphin)palladium dichloride | 0.14 mmol, 100 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 7-(3-Aminophenyl)-5-cyano-1-Phenylbenzimidazole | NC=1C=C(C=CC1)C1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C#N | C20H14N4
